US06255494B1
General Procedure for Benzimidazole Synthesis
Whne diaminotoluene was treated with 4-chlorophenoxynitrile there was no precipitate observed immediately. The reaction mixture was condensed under vacuum. The crude brownish solid was dissolved in ethyl acetate. The resulting solution was washed with water, then brine, and then dried over sodium sulfate. The solvents were then removed in vacuo to produce brown crystals with a good yield.

reactant | diaminotoluene | NC=1C(=C(C=CC1)C)N | C7H10N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Benzimidazole | N1=CNC2=C1C=CC=C2 | C7H6N2
